US07605123B2
8.4 Synthesis of the Protected MPEG4C3 oligomer (3-(2-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid tert-butyl ester)
Methyl tetraethylene glycol (1.0 g, 4.80 mmol) and tert-butyl acrylate (0.308 g, 2.40 mmol) were dissolved in dry THF (10 mL). Sodium metal 0.6 mg, 0.024 mmol) was added to the solution. After stirring for 4 h at room temperature was quenched by the addition of 1 M HCl (15 mL). The quenched reaction mixture was then extracted with CH2Cl2 (1×50 mL, 1×25 mL). The organic layer was dried (MgSO4) and concentrated. After purification by silica gel chromatography (ethyl acetate as eluent), the product was obtained as an oil (1.28 g, 79%).

reactant | Methyl tetraethylene glycol | 4.80 mmol, 1.0 g | CC(COCCOCCOCCO)O | C9H20O5
reactant | tert-butyl acrylate | 2.40 mmol, 0.308 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Sodium | 0.024 mmol, 0.6 mg | [Na] | Na
product | 3-(2-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid tert-butyl ester | 1.28 g, 79% | C(C)(C)(C)OC(CCOCCOCCOCCOCCOC)=O | C16H32O7
